US07288544B2
Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-5-(morpholine-4-carbonyl)nicotinic acid (3,3-diphenylpropyl) ester
50.0 mg (0.100 mmol) of 4-(3-chlorophenyl)-2,6-dimethylpyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester and 5 ml of thionyl chloride were stirred in DMF at room temperature for 1 hour. After concentration under reduced pressure, the residue was dissolved in 3 ml of dichloromethane. 1 ml of morpholine was added and stirred at room temperature for 6 hours. After concentration under reduced pressure, ethyl acetate was added and the residue was washed with water. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the basic silica gel chromatography (hexane/ethyl acetate=20/1 to 1/4) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-2,6-dimethylpyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester | 0.100 mmol, 50.0 mg | C1(=CC=CC=C1)C(CCOC(=O)C=1C(=NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)O)C)C)C1=CC=CC=C1 | C30H26ClNO4
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
product | 4-(3-chlorophenyl)-2,6-dimethyl-5-(morpholine-4-carbonyl)nicotinic acid (3,3-diphenylpropyl) ester | C1(=CC=CC=C1)C(CCOC(C1=C(N=C(C(=C1C1=CC(=CC=C1)Cl)C(=O)N1CCOCC1)C)C)=O)C1=CC=CC=C1 | C34H33ClN2O4
